US07960365B2
(R)-4-Bromo-thiophene-3-sulfonic acid {1-[4-(2-methoxy-pyridin-3-yl)-phenyl]-ethyl}-amide
2M Aqueous sodium carbonate solution (3.25 ml, 6.50 mmol) was added to a mixture of 2-methoxypyridine-3-boronic acid (994 mg, 6.50 mmol), (R)-[1-(4-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester (650 mg, 2.16 mmol) and tetrakis(triphenylphosphine)palladium (0) (125 mg, 0.108 mmol) in 1,2 dimethoxyethane (27 ml). The mixture was heated at 95° C. for 16 h under nitrogen atmosphere. The solvent was evaporated and the residue partitioned between ethyl acetate and water. The organic phase was washed twice with brine, dried over anhydrous magnesium sulfate and the solvent evaporated. The resulting gum was chromatographed over silica gel eluting with heptane/dichloromethane and the solvent evaporated to give (R)-{1-[4-(2-methoxy-pyridin-3-yl)-phenyl]-ethyl}-carbamic acid tert-butyl ester (593 mg, 1.71 mmol, 83.5%) as a crystalline solid. Trifluoroacetic acid (6.45 ml, 86.8 mmol) was added dropwise to a solution of (R)-{1-[4-(2-methoxy-pyridin-3-yl)-phenyl]-ethyl}carbamic acid tert-butyl ester (645 mg, 1.97 mmol) in dichloromethane (6.45 ml) under a nitrogen atmosphere at 0° C. After stirring for 1 h at 0° C. the solvent was evaporated. Methanol (20 ml) was added and the mixture added to a Strata™ 5 g/20 ml SCX column. The intermediate amine was eluted with 2M ammonia in methanol. The solvent was evaporated to give (R)-1-[4-(2-methoxy-pyridin-3-yl)-phenyl]-ethylamine as a gum (425 mg, 1.86 mmol, 94.6%). The title compound was then prepared in a similar manner to (R)-2,5-dimethyl-furan-3-sulfonic acid [1-(5′-fluoro-2′-methoxy-biphenyl-4-yl)-ethyl]-amide (Example 10) using 4-bromo-3-thiophenesulfonyl chloride and 1-[4-(2-Methoxy-pyridin-3-yl)-phenyl]-ethylamine. Title compound: 1H NMR (400 MHz, CDCl3): δ 8.17 (d, 1H), 7.56 (d, 1H), 7.41, 7.20 (a/b, 4H), 7.38 (m, 1H), 6.99-6.92 (m, 2H), 5.27 (d, 1H), 4.60 (m, 1H), 3.97 (s, 3H), 1.54 (d, 3H) ppm; MS (ESI) m/z: 453 [M+H]+.

reactant | 4-bromo-3-thiophenesulfonyl chloride | BrC=1C(=CSC1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | 1-[4-(2-Methoxy-pyridin-3-yl)-phenyl]-ethylamine | COC1=NC=CC=C1C1=CC=C(C=C1)C(C)N | C14H16N2O
product | (R)-4-Bromo-thiophene-3-sulfonic acid {1-[4-(2-methoxy-pyridin-3-yl)-phenyl]-ethyl}-amide | COC1=NC=CC=C1C1=CC=C(C=C1)[C@@H](C)NS(=O)(=O)C1=CSC=C1Br | C18H17BrN2O3S2
